US09024044B2
Step 1. Synthesis of 2-(diethylphosphono)propanoic acid methyl ester
Methyl 2-bromopropionate (100 g, 0.60 mol) and triethylphosphite (109 g, 0.66 mol) were mixed, and the mixture was stirred at 110° C. for 2 days. The reaction mixture was dried under reduced pressure to give the title compound.

reactant | Methyl 2-bromopropionate | 0.60 mol, 100 g | BrC(C(=O)OC)C | C4H7BrO2
reactant | triethylphosphite | 0.66 mol, 109 g | C(C)OP(OCC)OCC | C6H15O3P
product | 2-(diethylphosphono)propanoic acid methyl ester | COC(C(C)P(=O)(OCC)OCC)=O | C8H17O5P
